US07538121B2
N-[1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl]-1,1′-biphenyl-4-carboxamide
To a solution of 7-amino-1-(2-methoxyethyl)-1,2,3,4-tetrahydroquinoline (D13) (72 mg, 0.35 mmol) in DCM (2.5 ml) was added 4-biphenylcarboxylic acid (104 mg, 0.53 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (97 mg, 0.53 mmol) and 4-dimethylaminopyridine (6 mg, 0.05 mmol) and the reaction stirred at ambient temperature overnight. The mixture was diluted with DCM, washed with 2M sodium hydroxide solution, dried over MgSO4 and concentrated in vacuo to give the crude product which was purified by silica SPE chromatography. Elution with 20% EtOAc/60-80° C. petroleum ether gave the title compound as a pale yellow solid. 1H NMR (250 MHz, CDCl3) δ (ppm): 7.93 (d, 2H), 7.77 (br, 1H), 7.69 (d, 2H), 7.62 (d, 2H), 7.47 (t, 2H), 7.39 (t, 1H), 7.06 (d, 1H), 6.91 (d, 1H), 6.73 (dd, 1H), 3.63 (t, 2H), 3.49 (t, 2H), 3.37 (s, 3H), 3.36 (t, 2H), 2.73 (t, 2H), 1.91 (m, 2H).

reactant | 7-amino-1-(2-methoxyethyl)-1,2,3,4-tetrahydroquinoline | 0.35 mmol, 72 mg | NC1=CC=C2CCCN(C2=C1)CCOC | C12H18N2O
reactant | 4-biphenylcarboxylic acid | 0.53 mmol, 104 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.53 mmol, 97 mg | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 2.5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.05 mmol, 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl]-1,1′-biphenyl-4-carboxamide | COCCN1CCCC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C25H26N2O2
